Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dark tarry stools 
 
Major Surgical or Invasive Procedure:
EGD (___)

 
History of Present Illness:
Note: ___ speaking only; Family speaks ___
 
HISTORY OF PRESENT ILLNESS
___ h/o HTN, occ GERD, prior colon polyp in ___, p/w 6d of dark 
tarry stools (2 BM/day) and 3d of lightheadedness. Never had 
dark stools before. Had some normal mild GERD sx 2wk ago, 
resolved with ___ PPI. Denies abd pain, N/V, BRBPR, 
diarrhea/constipation. Denies fevers/chills, CP, SOB.

In the ED,
Initial vitals: T 97.1, HR 96, BP 103/49, RR 22, spO2 100RA
Exam notable for: marked conjunctival pallor, non-tender abdomen
Labs significant for: Hgb 6.3 (<- 14.6 on ___
Imaging: n/a
Received: Pantoprazole 40mg IV, 2u pRBC
GI was consulted, and recommended admission for further UGIB 
work-up including EGD tomorrow.
Vitals prior to transfer: T 97.8, HR 73, BP 103/56, RR 18, spO2 
100RA

Currently, patient is HDS and no longer pale or lightheaded. He 
does not feel febrile, has no CP, SOB.
 
ROS:  
Positive for melena, abdominal pain, fatigue.
Endorses recent intentional weight loss (-15 over 4mo from 
exercise).
No fevers, chills, night sweats. No changes in vision or 
hearing, no changes in balance. No cough, no shortness of 
breath, no dyspnea on exertion. No chest pain or palpitations. 
No nausea or vomiting. No diarrhea or constipation. No dysuria 
or hematuria. No hematochezia. No numbness or weakness, no focal 
deficits.  
 
Past Medical History:
HTN (baseline SBP 125, on lisinopril)
GERD (sx every ___, takes Prilosec PRN)
Overweight
PSA (elevated, negative biopsy at ___ ___ Dr. ___
Retinal detachment (OS, laser treatment ___ Dr. ___
Cataracts (b/l ___, surgery ___ Dr. ___
Ventral hernia
Colonic adenoma ___, Dr. ___
 
Social History:
___
Family History:
Mother - ___
Father - ___ infarction, Lung cancer
Cousin - ___
 
Physical ___:
Exam on admission:
======================
VS: T 98.3, HR 92, BP 131/83, RR 18, spO2 98RA
GEN: Alert, lying in bed, no acute distress  
HEENT: MMM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: CTAB, no wheezes or crackles
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
RECTAL (in ED): heme positive
.
Exam on discharge:
======================
Vitals: T 98.2, HR 73, BP 109/71, RR 16, O2 97RA
GEN: Alert, lying in bed, no acute distress  
HEENT: MMM, anicteric sclerae, no conjunctival pallor  
NECK: Supple, no LAD  
PULM: CTAB, no wheezes or crackles
COR: RRR (+)S1/S2 no m/r/g  
ABD: S/NT/ND 
EXTREM: WWP, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
RECTAL (in ED): heme positive
 
Pertinent Results:
Labs on admission:
====================
___ 12:35PM BLOOD WBC-10.0# RBC-2.04*# Hgb-6.3*# Hct-19.4*# 
MCV-95 MCH-30.9 MCHC-32.5 RDW-13.3 RDWSD-44.8 Plt ___
___ 12:35PM BLOOD ___ PTT-22.6* ___
___ 12:35PM BLOOD Glucose-109* UreaN-34* Creat-0.9 Na-133 
K-4.9 Cl-99 HCO3-23 AnGap-16
___ 12:35PM BLOOD ALT-12 AST-21 AlkPhos-23* TotBili-0.2
___ 12:35PM BLOOD Albumin-3.5
.
Microbiology:
====================
___ 12:40 pm URINE
 **FINAL REPORT ___
URINE CULTURE (Final ___:    NO GROWTH. 
.
___ 7:09 am SEROLOGY/BLOOD      CHEM 60727K ___. 
**FINAL REPORT ___
HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
POSITIVE BY EIA. 
(Reference Range-Negative). 
.
Imaging/reports:
====================
Stomach biopsy:
a. Chronic mildly active gastritis.
b. Organisms morphologically compatible with H. pylori.
.
EGD:Impression: Ulcer in the duodenal bulb
Normal mucosa in the stomach (biopsy)
Otherwise normal EGD to third part of the duodenum 
.
Labs on discharge:
====================
___ 12:45PM BLOOD WBC-6.3 RBC-2.46* Hgb-7.7* Hct-23.0* 
MCV-94 MCH-31.3 MCHC-33.5 RDW-14.4 RDWSD-46.3 Plt ___
___ 12:45PM BLOOD Plt ___
___ 06:24AM BLOOD Glucose-100 UreaN-17 Creat-0.9 Na-132* 
K-4.4 Cl-100 HCO3-25 AnGap-11
___ 06:24AM BLOOD Calcium-8.4 Phos-2.9 Mg-2.___ h/o GERD, HTN, p/w 6d of dark tarry stools and fatigue found 
to be acutely anemic (Hgb 6.3 on admission), found to have 2cm 
clean based ulcer in duodenum that had stopped bleeding by time 
of EGD on ___, and post-transfusion of 2u pRBC, patient with 
stable H/H (discharge Hgb of 7.7). GI recommended treatment with 
PPI, following up biopsies, and repeating H/H post-EGD, which 
was stable. 
.
After discharge, h. pylori antigen is positive, and stomach 
biopsies with organisms compatible with H. pylori.
.
Transitional issues:
- Please re-check CBC at next appointment. Discharge Hgb was 
7.7, stable
- Please assess for further GI bleed symptoms
- STARTED on omeprazole 40mg BID for 8 weeks, to be continued at 
20mg once a day after 8 weeks per GI
- Patient will require treatment for H. pylori given positive 
biopsies/serologies, and bleeding. We will coordinate with 
GI/primary care team
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY:PRN reflux 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID Duration: 8 Weeks 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Melena
Anemia
Peptic ulcer disease

Secondary:
Gastroesophageal reflux disease

 
Discharge Condition:
AVSS, A&Ox3, Ambulatory. No conjunctival pallor. Benign 
abdominal exam.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ for black tarry stools. In 
the emergency room, you were found to be very anemic, meaning 
you had a very low blood count, and you were given 2 units of 
blood. You were seen by the gastroenterology doctors, who 
recommended a procedure to look at your stomach and the 
beginning of your intestines called an upper endoscopy. You were 
found to have an ulcer in your duodenum, which was likely the 
cause of the bleeding. It had stopped bleeding, and your blood 
levels were stable. You were started on a new medication, 
omeprazole, 40mg twice a day by mouth and should take this for 8 
weeks to help heal the ulcer. 

Please seek immediate care if you continue to have dark tarry 
stools or notice worsening bleeding, lightheadedness, fatigue, 
shortness of breath, abdominal pain, or chest pain. Please 
continue to take your home medications, and follow up with your 
appointments as listed below.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___